US06034246
2-(4'-amino-3'-iodophenyl)benzothiazole (DF129)
To a solution in acetic acid (35 ml) of 2-(4'-aminophenyl) benzothiazole (2.98 g, 0.0132 mol) prepared as above was added dropwise a solution of iodine monochloride (2.78 g, 0.0171 mol) in acetic acid (35 ml) over 10 minutes at room temperature, followed by stirring for 11/2 hours. After evaporation of the solvent, 60 ml dichloromethane was added to the residue and the resulting suspension was neutralised with sodium hydrogen carbonate. Then 300 ml of water was added. The organic layer was washed with 10% sodium hydrogen carbonate solution (150 ml), water (100 ml×2) and dried (mgSO4). The solvent was removed under reduced pressure, absorbed onto silica gel, and placed on top of a column of silica gel. Flash elution using ethyl acetate-hexane (2:5) yielded brown crystals (3.32 g, 69.6%), m.p. 143-144° C.

reactant | 2-(4'-aminophenyl) benzothiazole | 0.0132 mol, 2.98 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H10N2S
reactant | iodine monochloride | 0.0171 mol, 2.78 g | ICl | ClI
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-(4'-amino-3'-iodophenyl)benzothiazole | 3.32 g, 69.6% | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)I | C13H9IN2S
